US07745484B2
Step 1. (S)-2,3-bis(tert-butyldimethylsilyloxy)propyl 4-methoxybenzoate
To a 1.0 L RB flask containing (R)-2,3-dihydroxypropyl 4-methoxybenzoate (4.800 g, 21.2 mmol; according to the procedure described in Corey, E. J.; Guzman-Perez, A.; and Noe, M. C. J. Am. Chem. Soc. 1995, 117, 10805-10816) was added DCM (100 mL ) and the mixture was allowed to stir at 0° C. for 5 minutes. At this time, TEA (8.87 ml, 63.7 mmol) was added and the reaction was allowed to stir for 5 min before the dropwise addition of tert-butyldimethylsilyl triflate (10.2 ml, 44.6 mmol) via syringe. The reaction was allowed to stir for 1 h and then quenched by pouring into HCl (0.1 N, 100 mL). The aqueous layer was extracted with DCM (2×75 mL). The combined organics were washed with HCl (0.1 N, 2×150 mL), sodium bicarbonate (1×150 mL, sat), brine, dried sodium sulfate. The concentrated solution was passed through a plug of silica gel to and concentrated to give the title compound as a colorless oil.

reactant | (R)-2,3-dihydroxypropyl 4-methoxybenzoate | COC1=CC=C(C(=O)OC[C@@H](CO)O)C=C1 | C11H14O5
reactant | tert-butyldimethylsilyl triflate | 44.6 mmol, 10.2 ml | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-2,3-bis(tert-butyldimethylsilyloxy)propyl 4-methoxybenzoate | COC1=CC=C(C(=O)OC[C@@H](CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)C=C1 | C23H42O5Si2
